* Simple RC Low-Pass Filter Subcircuit
* Pins: input, output, ground_ref
.subckt LOWPASS_RC input output gnd_ref
R1 input output 1k
C1 output gnd_ref 1u
.ends
